US04358307
2,3,6,7-Tetrachloroquinoxaline (mp 176° C.; prepared following essentially the same procedure as that referred to in Example 3 Part (a) for the preparation of 2,3-dichloroquinoxaline) was reacted with 4-(N-methylamino)phenol sulfate, following essentially the same procedure as that described in Example 1 Part (a), to give 4-[N-methyl-N-(3,6,7-trichloro-2-quinoxalinyl)amino]phenol.

reactant | 2,3,6,7-Tetrachloroquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1Cl)Cl)Cl | C8H2Cl4N2
reactant | 2,3-dichloroquinoxaline | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | 4-(N-methylamino)phenol sulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
product | 4-[N-methyl-N-(3,6,7-trichloro-2-quinoxalinyl)amino]phenol | CN(C1=NC2=CC(=C(C=C2N=C1Cl)Cl)Cl)C1=CC=C(C=C1)O | C15H10Cl3N3O
